US08623889B2
To a solution of 5-bromo-2-iodobenzonitrile (9.21 g, 0.03 mol) in tetrahydrofuran (140 mL) at 0° C. was added BH3-THF (66 mL, 66 mmol, 1 M solution in tetrahydrofuran) dropwise over 1 hour. The reaction solution was stirred at room temperature for 10 minutes, and then heated to reflux for overnight. 10% aqueous HCl was added (to adjust to pH 2-3) and stirred for 20 minutes, then the mixture was basified with 10 M aqueous KOH up to pH>10. The mixture was extracted with ethyl acetate three times. Organics were combined, dried with sodium sulfate, filtered and concentrated in vacuo to yield 6.2 g of crude (5-bromo-2-iodophenyl)methanamine as a yellow oil. LCMS (ESI): M+H=311.7; 1H NMR (400 MHz, DMSO-d6): δ 7.71 (d, J=8.4 Hz, 1H), 7.67 (d, J=2.4 Hz, 1H), 7.18 (dd, J=2.4, 8.4 Hz, 1H).

reactant | 5-bromo-2-iodobenzonitrile | 0.03 mol, 9.21 g | BrC=1C=CC(=C(C#N)C1)I | C7H3BrIN
reactant | BH3-THF | 66 mmol, 1 M, 66 mL | B.C1CCOC1
reactant | HCl | Cl | ClH
reactant | KOH | 10 M | [OH-].[K+]
solvent | tetrahydrofuran | 140 mL | O1CCCC1 | C4H8O
product | (5-bromo-2-iodophenyl)methanamine | 6.2 g | BrC=1C=CC(=C(C1)CN)I | C7H7BrIN
